* Z:\mnt\design.r\spice\examples\2966.asc
R1 N006 N005 100K
V3 N006 0 5
XU1 N001 N003 N004 N007 0 0 N003 N005 0 N002 N004 N007 0 N003 0 N008 LTC2966
R2 N006 N008 100K
R3 N003 N004 200K
R4 N004 N007 90.9K
R5 N007 0 909K
V1 N001 0 PWL(0 0 20u 0 10m 48 20m 0)
V2 N002 0 PWL(0 0 20u 0 10m 24 20m 0)
.tran 22m startup
.lib LTC2966.sub
.backanno
.end
