* Z:\mnt\design.r\spice\examples\2995.asc
R2 IN N004 194K
V1 IN 0 PWL(0 0 20u 2.5 3m 2.5 4m 2.1 5m 2.5)
C1 N001 N002 470p
Q1 N001 N001 N002 0 2N3904
R1 N004 N006 10.2K
R3 N006 0 45.3K
R4 N008 N009 64.4K
R5 N009 N011 10.2K
R6 N011 0 45.3K
V2 N008 0 1.2
C2 N013 0 5n
R7 N015 N014 20K
R8 N016 N015 20K
R9 0 N016 140K
XU1 N006 N009 N011 N015 N016 N001 N002 N003 IN MP_01 N014 N007 N005 N010 N012 N013 0 NC_02 IN N004 LTC2995
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 70m startup
.temp -50 100 140
.lib LTC2995.sub
.backanno
.end
