* Z:\mnt\design.r\spice\examples\3011.asc
V1 IN 0 PWL(0 0 10m 10)
C1 OUT 0 1µ
Rload OUT 0 1K
XU1 OUT OUT N002 0 IN N001 MP_01 IN LT3011
R1 IN N001 1.6Meg
C2 0 N002 1000p
.tran 10m
.lib LT3010.lib
.backanno
.end
