* Z:\mnt\design.r\spice\examples\3020.asc
XU1 OUT MP_01 N002 0 N001 MP_02 N001 LT3020
R1 OUT N002 130K
R2 N002 0 20K
V1 N001 0 PWL(0 0 1 10)
Rload OUT 0 100
C1 OUT 0 2.2µ
.tran 1
.lib LT3020.lib
.backanno
.end
