* Z:\mnt\design.r\spice\examples\3021.asc
R1 OUT N002 130K
R2 N002 0 20K
V1 N001 0 PWL(0 0 1 10)
Rload OUT 0 100
C1 OUT 0 3.3µ
XU1 MP_01 MP_02 OUT MP_03 MP_04 MP_05 N002 MP_06 N001 0 MP_07 N001 LT3021
.tran 1
.lib LT3021.lib
.backanno
.end
