* Z:\mnt\design.r\spice\examples\3032.asc
XU1 N002 N003 NC_01 0 MP_02 N005 N006 N004 MP_03 N001 NC_04 N001 MP_05 N001 LT3032
C1 N002 0 10µ
R1 N002 N003 50K
R2 N003 0 29K
V1 N005 0 pwl(0 0 1 -10)
V2 N001 0 pwl(0 0 1 10)
C2 N006 0 10µ
R3 N006 N004 50K
R4 N004 0 29K
R5 N002 0 100
R6 N006 0 100
.tran 1
.lib LT3032.lib
.backanno
.end
