* Z:\mnt\design.r\spice\examples\3033.asc
XU1 IN MP_01 OUT MP_02 0 MP_03 0 N003 NC_04 N001 N002 IN LT3033
V1 IN 0 1.2
R1 OUT N001 13.7K
R2 N001 0 3.92K
R3 0 N003 442
R4 IN N002 100K
Rload OUT 0 900
C1 OUT 0 47µ
.tran 1m startup
.lib LT3033.sub
.backanno
.end
