* Z:\mnt\design.r\spice\examples\3035.asc
XU1 N002 N004 0 IN OUT N003 IN N001 LTC3035
C1 N002 N004 0.1µ
V1 IN 0 3.6
C2 N001 0 1µ
R1 OUT N003 294K
R2 N003 0 40.2K
Rload OUT 0 20
C3 OUT 0 1µ
.tran 5m startup
.lib LTC3035.sub
.backanno
.end
