* Z:\mnt\design.r\spice\examples\3042.asc
V1 IN 0 5
R1 IN N001 200K
R2 OUT N004 450K
R3 N004 0 50K
R4 N003 0 499
C1 N002 0 4.7µ Rpar=33.2K
C2 OUT 0 4.7µ Rser=3m
Rload OUT 0 16.5
XU1 IN MP_01 IN N001 N003 N004 N002 0 OUT OUT LT3042
.tran 1 startup
.lib LT3042.sub
.backanno
.end
