* Z:\mnt\design.r\spice\examples\3048.asc
V1 IN 0 3.2
L1 IN N002 5.6µ Rser=.12
C1 N001 0 4.7µ
C2 OUT N003 .1n
C3 OUT 0 1µ Rser=10m
Rload OUT 0 167
XU1 N002 IN 0 N003 OUT N004 IN N001 LT3048
R1 OUT N004 301K
R2 N004 0 100K
.tran 1m startup
.lib LT3048.sub
.backanno
.end
