* Z:\mnt\design.r\spice\examples\3065.asc
XU1 IN MP_01 IN N002 N003 N004 0 N001 OUT LT3065
C1 N004 0 .01µ
V1 IN 0 10
R1 IN N002 500K
R2 OUT N001 432K
R3 N001 0 59K
C2 N003 0 .022µ Rpar=1.5K
C3 OUT 0 3.3µ Rser=20m
Rload OUT 0 30
.tran .1 startup
.lib LT3065.sub
.backanno
.end
