* Z:\mnt\design.r\spice\examples\3066.asc
C1 N005 0 .01µ
V1 IN 0 10
R1 IN N003 499K
R2 OUT N002 280K
R3 N002 0 61.9K
C2 N004 0 22n Rpar=604
C3 OUT 0 10µ Rser=4m
Rload OUT 0 30
C4 OUT N002 10n
XU1 N001 IN MP_01 IN N003 N004 N005 MP_02 N002 MP_03 OUT MP_04 0 LT3066
R4 N001 IN 140
.tran .1 startup
.lib LT3066.sub
.backanno
.end
