* Z:\mnt\design.r\spice\examples\3081.asc
R1 N001 0 1K
XU1 N003 N004 N002 OUT N001 IN LT3081
R2 N002 0 1K
R3 N004 0 30.1K
R4 OUT N003 6.04K
V1 IN 0 5
C1 OUT 0 10µ V=6.3 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C3216X5ROJ106M" type="X5R"
Rload OUT 0 1
.tran .1 startup
.lib LT3081.sub
.backanno
.end
