* Z:\mnt\design.r\spice\examples\3083.asc
R1 N003 0 18.2K
V1 N001 0 PWL(1u 0 1.1u 4.5) Rser=5m
R2 N002 0 .9
C1 N002 0 10µ
C2 N001 0 200µ
XU1 MP_01 N003 N002 N001 N001 LT3083
.tran 20u startup
.lib LT3083.sub
.backanno
.end
