* Z:\mnt\design.r\spice\examples\3085.asc
R1 N003 0 100K
V1 N001 0 PWL(1u 0 1.1u 4.5) Rser=5m
R2 N002 0 2
C1 N002 0 2.2µ
C2 N001 0 200µ
XU1 MP_01 N003 N002 N001 N001 LT3085
.tran 10u startup
.lib LT3085.sub
.backanno
.end
