* Z:\mnt\design.r\spice\examples\3088.asc
XU1 MP_01 N001 OUT MP_02 IN LT3088
V1 IN 0 3.3
R1 N001 0 30.1K
C1 OUT 0 10µ Rser=5m
Rload OUT 0 1.875
.tran 1m startup
.lib LT3088.sub
.backanno
.end
