* Z:\mnt\design.r\spice\examples\3093.asc
V1 IN 0 -5
R1 0 N001 33.2K
R2 0 N002 3.75K
R3 OUT N006 475K
R4 N006 0 50K
R5 N004 N003 100K
C1 OUT 0 10µ Rser=10m Lser=1n
C2 0 N001 4.7µ
R6 N005 0 100K
XU1 IN MP_01 N003 N004 N006 N002 N005 N001 0 OUT OUT LT3093
Rload OUT 0 16.6
V2 N003 0 3.3
.tran .5 startup
.lib LT3093.sub
.backanno
.end
