* Z:\mnt\design.r\spice\examples\3100.asc
V1 IN 0 2
R1 OUT1 N002 1.87Meg
R2 N002 0 1.07Meg
C1 OUT1 0 10µ
R3 OUT2 N005 2Meg
R4 N005 0 1Meg
C2 OUT2 0 10µ
XU1 N001 OUT1 OUT3 N004 OUT1 N007 0 IN N005 IN N006 N002 0 IN N003 IN LTC3100
L1 IN N001 3.3µ Rser=5m Rpar=2K
R5 OUT1 N003 1Meg
L2 N004 OUT2 4.7µ Rser=5m Rpar=2K
R6 OUT2 N007 1Meg
R7 OUT3 N006 102K
R8 N006 0 25.5K
C3 OUT3 0 2.2µ
Rload1 OUT1 0 33
Rload2 OUT2 0 9
Rload3 OUT3 0 60
.tran 1.5m startup
.lib LTC3100.sub
.backanno
.end
