* Z:\mnt\design.r\spice\examples\3109.asc
XU1 N009 N011 OUT NC_01 NC_02 NC_03 N007 0 N006 N008 MP_04 N010 IN+ IN- N004 MP_05 N003 N002 N011 0 LTC3109
C1 N002 N001 1n
C2 N003 N001 470p
L1 IN+ N004 7.5µ Rser=85m
L2 N001 0 75m Rser=305
C3 N006 N005 1n
C4 N008 N005 470p
L3 IN- N010 7.5µ Rser=85m
L4 N005 0 75m Rser=305
C5 N011 0 1µ
C6 N007 0 2.2µ
C7 N009 0 10µ
C8 OUT 0 10µ
V1 IN+ IN- PWL(0 0 100n 60m 1.0001 60m 1.001 -60m 2.001 -60m) Rser=1
C11 IN- 0 1µ Rpar=100K
C10 IN+ IN- 220µ Rser=5m Rpar=1Meg
K1 L1 L2 0.98
K2 L3 L4 0.98
.tran 3
.lib LTC3109.sub
.backanno
.end
