* Z:\mnt\design.r\spice\examples\3111.asc
C2 N007 0 1µ
V1 IN 0 6
C3 N001 N003 .1µ
L1 N001 N002 4.7µ
C4 N002 N004 .1µ
C5 N005 N006 680p Rser=26.1K Cpar=27p
R1 OUT N005 1Meg
R2 N005 0 191K
C6 OUT N005 33p Rser=20K
C7 OUT 0 22µ Rser=5m
Rload OUT 0 3.33
XU1 0 N006 N005 0 IN 0 IN MP_01 OUT MP_02 MP_03 N002 MP_04 N004 N001 MP_05 N003 N007 IN LTC3111
.tran 2.5m startup
.lib LTC3111.sub
.backanno
.end
