* Z:\mnt\design.r\spice\examples\3112.asc
XU1 0 N007 N006 0 IN MP_01 IN N008 OUT MP_02 MP_03 N002 MP_04 N004 N001 MP_05 N003 N005 IN LTC3112
R1 N008 0 42.2K
C1 N008 0 100p
C2 N005 0 1µ
V1 IN 0 6
C3 N001 N003 .1µ
L1 N001 N002 4.7µ
C4 N002 N004 .1µ
C5 N006 N007 680p Rser=33K Cpar=22p
R2 OUT N006 845K
R3 N006 0 158K
C6 OUT N006 47p Rser=10K
C7 OUT 0 47µ
Rload OUT 0 2.5
.tran 2.5m startup
.lib LTC3112.sub
.backanno
.end
