* Z:\mnt\design.r\spice\examples\3113.asc
V1 IN 0 3.6
L1 N001 N002 2.2µ
C5 N003 N005 680p Rser=49.9K Cpar=12p
R2 OUT N003 845K
R3 N003 0 158K
C6 OUT N003 47p Rser=6.49K
C7 OUT 0 100µ
Rload OUT 0 1.22
XU1 N004 0 0 N001 0 MP_01 N002 OUT MP_02 IN MP_03 IN N003 N005 LTC3113
R1 N004 0 90.9K
.tran 2.5m startup
.lib LTC3113.sub
.backanno
.end
