* Z:\mnt\design.r\spice\examples\3125.asc
XU1 0 N003 N004 IN N001 IN OUT N002 LTC3125
V1 IN 0 3.3
R1 N004 0 44.2K
L1 N001 N002 2.2µ
R2 OUT N003 1.24Meg
R3 N003 0 536K
C1 OUT 0 10µ Rser=28m
Rload OUT 0 100
.tran 500u startup
.lib LTC3125.sub
.backanno
.end
