* Z:\mnt\design.r\spice\examples\3126.asc
XU1 0 N005 IN2 IN1 N003 N004 N001 N002 0 N011 N008 N013 N015 IN2 N007 IN1 N009 N010 MP_01 N012 N008 NC_02 N006 MP_03 0 0 N014 LTC3126
C1 N002 N001 .1µ Rser=1m
C2 N004 N003 .1µ Rser=1m
V1 IN1 0 15
V2 IN2 0 12
C3 N008 0 1µ
R1 N011 N013 499K
R2 N013 N015 249K
R3 N015 0 249K
L1 N005 OUT 2.2µ Rser=5m
C4 OUT 0 47µ V=6.3 Irms=0 Rser=.001
R4 OUT 0 1.3
R5 N014 0 16.5K
R7 N006 0 374K
C5 OUT N006 10p Rpar=1.13Meg
.tran .9m startup
* Note: LTC3126 has a Soft-Start duration of 7.5ms. \n          Model has soft-start duration of only 0.75ms.
.lib LTC3126.sub
.backanno
.end
