* Z:\mnt\design.r\spice\examples\3128.asc
XU1 N001 0 MP_01 MP_02 N003 N003 N004 N007 MP_03 MP_04 N004 MP_05 NC_06 N004 N008 N006 NC_07 N005 OUT OUT MP_08 MP_09 N002 LTC3128
R1 N008 0 127K
L1 N001 N002 3.3µ Rser=20m
V1 IN 0 3.3
C1 N003 0 10µ
C2 N007 0 470p Rpar=3.57K
R2 OUT N006 1.87Meg
C§SUPCap1 OUT N005 35m Rser=50m
C§SUPCap2 N005 0 35m Rser=50m
R3 N006 0 301K
C3 OUT N005 10µ Rser=5m
C4 N005 0 10µ Rser=5m
R4 IN N004 100m
C5 N004 0 10µ
.tran 50m startup
.lib LTC3128.sub
.backanno
.end
