* Z:\mnt\design.r\spice\examples\3129.asc
L1 N001 N002 10µ Rser=20m
C1 N001 N003 22n
C2 N002 N004 22n
V1 IN 0 12
C3 N007 0 2.2µ
R1 OUT N005 3.32Meg
R2 N005 0 1.02Meg
C4 OUT N005 10p
Rload OUT 0 25
C5 OUT 0 10µ Rser=1m
R3 IN N006 680K
R4 N006 0 100K
XU1 0 N003 N001 MP_01 IN N006 N007 N007 N005 N004 0 N002 NC_02 OUT LTC3129
.tran 5m startup
.lib LTC3129.sub
.backanno
.end
