* Z:\mnt\design.r\spice\examples\3130.asc
L1 N001 N002 10µ Rser=50m Rpar=10K
C1 N001 N003 22n
C2 N002 N004 22n
V1 IN 0 3.6
C3 N006 0 4.7µ
R1 OUT N005 3.83Meg
R2 N005 0 348K
C4 OUT N005 10p Rser=200K
Rload OUT 0 240
C5 OUT 0 10µ Rser=7m
XU1 0 N003 N001 IN IN IN N006 N006 N005 N006 0 0 N007 OUT N004 N002 LTC3130
R5 OUT N007 1Meg
.tran 8m startup
.lib LTC3130.sub
.backanno
.end
