* Z:\mnt\design.r\spice\examples\3201.asc
XU1 N003 N002 N004 N001 0 IN IN IN IN N005 LTC3201
C1 N002 N001 .22µ
C2 N003 0 1µ
C3 N004 0 .22µ
V1 IN 0 3
R1 N005 0 56
D1 N003 N005 NSPW500BS
R2 N006 0 56
D2 N003 N006 NSPW500BS
R3 N007 0 56
D3 N003 N007 NSPW500BS
R4 N008 0 56
D4 N003 N008 NSPW500BS
R5 N009 0 56
D5 N003 N009 NSPW500BS
R6 N010 0 56
D6 N003 N010 NSPW500BS
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LTC3201.sub
.backanno
.end
