* Z:\mnt\design.r\spice\examples\3202.asc
C1 N002 N001 1µ
C2 N008 0 1µ
V1 IN 0 3
R3 N009 0 36
XU1 IN N009 N008 IN 0 N004 N002 N001 N003 IN LTC3202
C3 N004 N003 1µ
D1 N008 N009 NSPW500BS
R1 N010 0 36
D2 N008 N010 NSPW500BS
R2 N011 0 36
D3 N008 N011 NSPW500BS
R4 N005 0 36
D4 N008 N005 NSPW500BS
R5 N006 0 36
D5 N008 N006 NSPW500BS
R6 N007 0 36
D6 N008 N007 NSPW500BS
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LTC3202.sub
.backanno
.end
