* Z:\mnt\design.r\spice\examples\3203.asc
V1 IN 0 4
C2 N001 N003 2.2µ
C3 OUT 0 10µ
R1 OUT 0 8.2
R2 N002 0 100K
R3 IN N002 350K
C1 N005 N006 2.2µ
R4 N004 0 100K
R5 OUT N004 350K
XU1 N001 OUT N005 IN N004 N002 IN N003 0 N006 LTC3203
.tran 500u startup
.lib LTC3203.sub
.backanno
.end
