* Z:\mnt\design.r\spice\examples\3205.asc
C1 N005 N007 1µ
C2 N009 N012 1µ
C3 N004 0 1µ
V1 N003 0 3.6
V2 N021 0 PULSE(0 1 50u 10n 10n 20u 40u)
V3 N022 0 PULSE(0 1 10u 10n 10n 50u 110u)
V4 N020 0 PWL(0 0 50n 0 60n 1 661u 1 662u 0)
R1 0 N001 12.4K
R2 0 N002 24.9K
D4 N004 N006 QTLP690C
D1 N004 N008 QTLP690C
D2 N004 N010 QTLP690C
D3 N011 N013 QTLP690C
D5 N004 N015 QTLP690C
D6 N004 N016 QTLP690C
D7 N004 N017 QTLP690C
D8 N004 N018 QTLP690C
D9 N004 N019 QTLP690C
V5 N014 0 3
D10 N004 N011 QTLP690C
XU1 N008 N006 N012 N007 N005 N009 N022 N021 N020 N003 0 N014 N002 N001 N004 N003 0 N019 N018 N017 N016 N015 N013 N010 0 LTC3205
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LTC3205.sub
.backanno
.end
