* Z:\mnt\design.r\spice\examples\3212.asc
V1 N003 0 3
D1 N004 N006 AOT-2015
C1 N004 0 1µ
XU1 N001 N004 N005 N003 N003 N009 N008 N007 N006 0 N002 N003 LTC3212
C2 N001 N002 1µ
R1 N009 0 11.8K
V2 N005 0 PULSE(1 0 40u 10n 10n 100n 200n 15)
D2 N004 N007 AOT-2015
D3 N004 N008 AOT-2015
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LTC3212.sub
.backanno
.end
