* Z:\mnt\design.r\spice\examples\3217.asc
V1 N001 0 3.6
C1 N003 N005 2.2µ
C2 N007 N009 2.2µ
D1 N002 N004 NSPW500BS
R1 N011 0 19.6K
R2 N012 0 6.49K
C3 N002 0 4.7µ
XU1 N003 N002 N001 N004 N006 N008 N010 0 N011 N012 N001 N009 0 N005 N001 N007 LTC3217
D2 N002 N006 NSPW500BS
D3 N002 N008 NSPW500BS
D4 N002 N010 NSPW500BS
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LTC3217.sub
.backanno
.end
