* Z:\mnt\design.r\spice\examples\3218.asc
XU1 N001 N003 N004 IN N005 N005 IN 0 N002 IN LTC3218
C1 N001 N002 2.2µ
V1 IN 0 3.2
C2 N003 0 4.7µ
D1 N004 0 AOT-2015
R1 N005 0 10.2K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LTC3218.sub
.backanno
.end
