* Z:\mnt\design.r\spice\examples\3230.asc
XU1 N005 IN IN N013 N014 N011 N006 N007 N008 N009 N014 NC_01 NC_02 N012 N010 N004 N002 IN N003 N001 0 LTC3230
C1 N001 N002 1µ
C2 N003 N004 1µ
V1 IN 0 3.6
C3 N005 0 1µ
D1 N005 N006 NSPW500BS
R1 N013 0 17.4K
C4 N012 0 1µ
R2 N012 0 14
C5 N010 0 1µ
R3 N010 0 7.5
D2 N005 N007 NSPW500BS
D3 N005 N008 NSPW500BS
D4 N005 N009 NSPW500BS
D5 N005 N011 NSPW500BS
V2 N014 0 PWL(.1m 0 .101m 1)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LTC3230.sub
.backanno
.end
