* Z:\mnt\design.r\spice\examples\3246.asc
XU1 MP_01 N004 NC_02 N003 IN IN 0 MP_03 MP_04 MP_05 N001 OUT N002 NC_06 0 OUT LTC3246
V1 IN 0 12
C1 N001 N002 2.2µ
C2 OUT 0 10µ
R1 OUT 0 10
C3 N003 0 10µ
C4 N004 0 1n
.tran 500u startup
.lib LTC3246.sub
.backanno
.end
