* Z:\mnt\design.r\spice\examples\3252.asc
C1 N002 N003 1µ
V1 IN 0 5
XU1 N001 IN IN N002 OUT1 N003 0 N006 OUT2 N004 IN N005 LTC3252
R1 OUT2 N005 261K
R2 N005 0 510K
C2 OUT2 0 4.7µ
R3 OUT1 N001 470K
R4 N001 0 510K
C3 OUT1 0 4.7µ
Rload2 OUT2 0 10
C4 N004 N006 1µ
Rload1 OUT1 0 10
.tran 1m startup
.lib LTC3252.sub
.backanno
.end
