* Z:\mnt\design.r\spice\examples\3265.asc
XU1 IN 0 N007 N009 OUT- N010 N008 N006 IN OUT+ IN 0 N004 N005 0 N001 N002 N001 N003 LTC3265
C1 N002 N003 1µ
V1 IN 0 12
C2 N006 N008 1µ
C3 N010 0 10µ Rser=5m
C4 N001 0 10µ Rser=5m
C5 N005 0 100n
R1 N004 0 52.3K
R2 OUT+ N004 604K
C6 OUT+ 0 10µ Rser=5m
C7 N007 0 100n
R3 N009 0 52.3K
R4 OUT- N009 604K
C8 OUT- 0 10µ Rser=5m
Rload+ OUT+ 0 750
Rload- OUT- 0 750
.tran 6m startup
.lib LTC3265.sub
.backanno
.end
