* Z:\mnt\design.r\spice\examples\3330.asc
XU1 N012 N005 N010 0 0 0 N001 N003 NC_01 N008 N009 N004 N005 N007 N006 N013 N001 N001 N001 N014 N005 N001 0 N001 N001 N011 NC_02 NC_03 NC_04 0 0 N001 0 LTC3330
I1 0 N002 4m
R1 N002 N003 10
R2 N002 0 5K
D1 N002 0 SOLA
C1 N008 0 10µ
C2 N008 N009 1µ
C3 N010 0 4.7µ
C4 N011 0 1µ
V1 N013 0 4.5
L1 N004 N005 22µ Rser=50m
L2 N006 N007 22µ Rser=50m
C5 N005 0 4.7µ Rser=10m
C6 N005 N012 10m
C7 N012 0 10m
R3 N005 0 66
C8 N014 0 22µ Rser=5m
R4 N014 0 60
V2 N001 0 5
I2 N012 N005 pwl(0 0 20u 800 40u 0)
I3 0 N012 pwl(0 0 20u 800 40u 0)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model SOLA D(Ron=.5K Roff=1G Vfwd=4 epsilon=1.2)
.tran 30m startup
.lib LTC3330.sub
.backanno
.end
