* Z:\mnt\design.r\spice\examples\3331.asc
I1 0 N001 4m
R1 N001 N002 10
R2 N001 0 5K
D1 N001 0 SOLA
C1 N007 0 22µ
C2 N007 N008 1µ
C3 N009 0 4.7µ
C4 N013 0 .1µ
L1 N003 N004 22µ Rser=50m
L2 N005 N006 22µ Rser=50m
C5 N004 0 4.7µ Rser=10m
C6 N004 N011 10m
C7 N011 0 10m
R3 N004 0 1K
V2 N014 0 5
I2 N011 N004 pwl(0 0 20u 430 40u 0)
I3 0 N011 pwl(0 0 20u 430 40u 0)
XU1 N011 N004 N009 0 0 0 N014 N002 NC_01 N007 N008 N003 N004 N006 N005 N012 N014 N014 N014 N012 N015 0 0 0 NC_02 N013 N010 NC_03 NC_04 0 0 0 0 LTC3331
R4 N010 N012 10K
C8 N015 0 1m ic=3.4
C9 N012 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model SOLA D(Ron=.5K Roff=1G Vfwd=4 epsilon=1.2)
.tran 1 startup
.lib LTC3331.sub
.backanno
.end
