* Z:\mnt\design.r\spice\examples\3350.asc
XU1 MP_01 MP_02 MP_03 NC_04 N014 N016 N001 0 N017 MP_05 N019 MP_06 MP_07 MP_08 MP_09 MP_10 N018 N020 N015 N002 CAP N011 N013 N010 N008 N007 N012 N004 N004 OUT N003 N005 N006 IN MP_11 MP_12 N009 NC_13 0 LTC3350
V1 IN 0 12
R1 IN N009 806K
R2 N009 0 100K
C1 N013 0 1µ
C2 N014 0 .01µ
R3 N017 0 71.5K
R4 N019 0 121
M1 N003 N006 IN IN IRF8910
C3 N003 N005 1µ
R5 OUT N003 16m
M2 OUT N002 CAP CAP IRF8910
C4 N004 0 4.7µ
M3 OUT N008 N010 N010 BSZ060NE2LS
M4 N010 N012 0 0 BSZ060NE2LS
L1 N010 N011 3.3µ Rser=10m
R6 N011 CAP 6m
C5 CAP 0 22µ x4 V=25 Irms=0 Rser=0.003 Lser=0 mfg="TDK" pn="C575OX5RIE226M" type="X5R"
D1 N004 N007 CMDSH2-3
C6 N007 N010 .1µ
C7 CAP N015 .1µ
C8 N018 N020 .1µ
R7 CAP N016 866K
R8 N016 0 118K
Csupercap CAP 0 1m Rser=.1
R9 OUT N001 866K
R10 N001 0 118K
C10 OUT 0 47µ x2 V=6.3 Irms=0 Rser=0.002 Lser=0 mfg="TDK" pn="C4532X5ROJ47@M" type="X5R"
C11 OUT 0 2.2µ x2 V=25 Irms=6.893 Rser=0.005 Lser=0 mfg="KEMET" pn="C1210C225K3PAC" type="X5R"
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m startup
* Note: 1. The real part allows up to 4 supercap to be charged in series, \n              with internal balancer and active shunt regulator to gurantee \n              them to have even voltage. The model does not support these\n              features, even though users can put capacitors in series.\n          2. GPI pin is not modeled.
.lib LTC3350.sub
.backanno
.end
