* Z:\mnt\design.r\spice\examples\3375.asc
V1 IN 0 5
L1 N001 OUT 2.2µ Rser=20m
C1 OUT 0 14µ Rser=2m
R2 OUT N002 590K
R3 N002 0 200K
Rload OUT 0 3
R4 N003 0 402K
XU1 N003 NC_01 IN N002 N001 MP_02 IN 0 0 LTC3375
.tran 2m startup
.lib LTC3375.sub
.backanno
.end
