* Z:\mnt\design.r\spice\examples\3376.asc
XU1 N004 N002 IN N003 N001 0 IN IN OUT N002 0 N005 N006 NC_01 LTC3376 LTC3376 CHAN={CHAN}
L1 N001 OUT {4.7µ/CHAN}
C1 OUT 0 {8µ*CHAN}
Rload OUT 0 {5/CHAN}
R1 OUT N003 1.15Meg
R2 N003 0 100K
R3 OUT N005 100K
R4 N006 0 {10K/CHAN}
R5 N004 0 402K
C2 N002 0 4.7µ
V1 IN 0 12
.tran 1.5m startup
* The "CHAN" parameter should be set to the number of power stages used in parallel\nwith the buck controller you are simulating.The external components have been \nscaled appropriately for convenience.  The 8µF output cpacitor models a 22µF 0805 \ncapacitance at 5V.
.param CHAN=1
.lib LTC3376.sub
.backanno
.end
