* Z:\mnt\design.r\spice\examples\3403.asc
V1 IN 0 5
C2 OUT 0 4.7µ
L1 N002 OUT 2.2µ
Rload OUT 0 10
V2 N003 0 PWL(0 0 100u .6)
XU1 N001 IN 0 N002 IN IN N003 OUT LTC3403
.tran 200u startup
.lib LTC3403.sub
.backanno
.end
